US07977359B2
Step 3: 5-{4-[3-tert-Butylsulfanyl-2-(2,2-dimethyl-propyl)-5-(pyridin-2-ylmethoxy)-indol-1-ylmethyl]-phenyl}-[1,3,4]oxadiazol-2-ylamine
To 4-[3-tert-Butylsulfanyl-2-(2,2-dimethyl-propyl)-5-(pyridin-2-ylmethoxy)-indol-1-ylmethyl]-benzoic acid hydrazide (0.05 g, 0.10 mmol) in DMF (1 mL) was added C-Di-imidazol-1-yl)-methyleneamine (0.08 g, 0.50 mmol), and the reaction was heated at 85° C. for 3 hours. The mixture was cooled to room temperature and partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on silica gel (EtOAc:hexane gradient) to give the desired product.

reactant | 4-[3-tert-Butylsulfanyl-2-(2,2-dimethyl-propyl)-5-(pyridin-2-ylmethoxy)-indol-1-ylmethyl]-benzoic acid hydrazide | 0.10 mmol, 0.05 g | C(C)(C)(C)SC1=C(N(C2=CC=C(C=C12)OCC1=NC=CC=C1)CC1=CC=C(C(=O)NN)C=C1)CC(C)(C)C | C31H38N4O2S
reactant | methyleneamine | 0.50 mmol, 0.08 g | C=N | CH3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-{4-[3-tert-Butylsulfanyl-2-(2,2-dimethyl-propyl)-5-(pyridin-2-ylmethoxy)-indol-1-ylmethyl]-phenyl}-[1,3,4]oxadiazol-2-ylamine | C(C)(C)(C)SC1=C(N(C2=CC=C(C=C12)OCC1=NC=CC=C1)CC1=CC=C(C=C1)C1=NN=C(O1)N)CC(C)(C)C | C32H37N5O2S
